US07754725B2
Synthesis of [5-(3-amino-propoxy)-1,3-dihydro-isoindol-2-yl]-(2,4-dihydroxy-5-isopropyl-phenyl)-methanone
A solution of {3-[2-(2,4-dihydroxy-5-isopropyl-benzoyl)-2,3-dihydro-1H-isoindol-5-yloxy]-propyl}-carbamic acid tert-butyl ester (1 g) in EtOAc (10 ml) was treated with a saturated solution of HCl in EtOAC then stirred at room temperature for 2 hours. The reaction mixture was evaporated and re-evaporated with ethanol (×3). The title compound was isolated as a cream foam (840 mg). 1H NMR (DMSO-d6) 10.05 (1H, br s), 9.60 (1H, s), 7.88 (3H, br s), 7.30-7.18 (1H, m), 7.05 (1H, s), 7.00-6.85 (2H, m), 6.42 (1H, s), 4.75 (2H, br s) 4.70 (2H, br s), 4.05 (2H, t), 3.10 (1H, m), 3.00-2.95 (2H, m), 2.00 (2H, tt), 1.15 (6H, d). MS: [M+H]+ 371.

reactant | {3-[2-(2,4-dihydroxy-5-isopropyl-benzoyl)-2,3-dihydro-1H-isoindol-5-yloxy]-propyl}-carbamic acid tert-butyl ester | 1 g | C(C)(C)(C)OC(NCCCOC=1C=C2CN(CC2=CC1)C(C1=C(C=C(C(=C1)C(C)C)O)O)=O)=O | C26H34N2O6
reactant | HCl | Cl | ClH
solvent | EtOAc | 10 ml | CCOC(=O)C | C4H8O2
product | [5-(3-amino-propoxy)-1,3-dihydro-isoindol-2-yl]-(2,4-dihydroxy-5-isopropyl-phenyl)-methanone | NCCCOC=1C=C2CN(CC2=CC1)C(=O)C1=C(C=C(C(=C1)C(C)C)O)O | C21H26N2O4
